Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2](=[C:3][H:4])[C:15]([H:16])([H:17])[H:18]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.361967766569999
[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][C:4]#[C:5][H:6]>>[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],-5.25729852016
[H:1][O:2][C:3]([H:4])([H:5])[C:6]1[C:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7])[C:11]([C:8]([H:9])[H:10])([H:12])[H:13],2.10096178295
[H:1][C:2](=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2](#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1],3.89974728164
[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]#[C:8][H:9]>>[H:5].[O:1][O:2][C:3]([H:4])[C:6][C:7]#[C:8][H:9],1.90072626165
[C:2](=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11].[O:1][C:5]([H:3])=[O:4]>>[O:1]=[C:2]([H:3])[O:4][C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],-1.50950010757
[C:1]#[C:2][C:5]([H:6])([H:7])[H:8].[O:3]=[O:4]>>[C:1]=[C:2]([O:3][O:4])[C:5]([H:6])([H:7])[H:8],-0.36548075159
[H:1].[O:2]=[C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.39684077631
[C:1]#[C:2][O:3][C:4][H:5].[C:6]=[C:7]([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],-6.17895703019
[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])=[O:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.4434376398299995
[C:2]#[C:3][O:4][C:5][C:6]([H:7])[H:8].[O:1]>>[O:1]=[C:2]=[C:3][O:4][C:5]=[C:6]([H:7])[H:8],-6.78201285233
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15],4.18933018725
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]=[O:8]>>[C:1][O:2][C:3][C:5]([H:6])=[C:7]=[O:8].[H:4],3.4697167103699993
[H:1][C:2][O:3]/[C:4]=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:3][C:4]#[C:5][C:8]([H:9])([H:10])[H:11].[O:6][H:7],3.3178562456900003
[C:1].[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])\[C:12]([H:13])([H:14])[H:15]>>[C:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.94256857828
[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7].[O:8]=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14],2.12860929
[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3]#[C:4][H:5].[H:6],2.39846442045
[H:1][C:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[O:9][O:10][H:11]>>[C:3](#[C:4][H:5])[C:6]([H:7])([H:8])[O:9][O:10][H:11].[H:1][C:2],3.0041150567900003
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[O:9][H:10],5.4140070499
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[O:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5]1[C:6]([H:7])([H:8])[O:9][C:10]1([H:11])[H:12],0.119643366051
[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]1[O:4][C:5]([H:6])[C:11]1([H:12])[H:13]>>[H:1][O:2][C:3]1[O:4][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],-3.8136680371
[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[O:4],1.56376764849
[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1],4.9317452618
[H:19].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])[H:18]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-4.5576601849500005
[H:1][O:2][C:3]#[C:4][H:5].[H:6]>>[H:1][O:2][C:3]=[C:4]([H:5])[H:6],-2.39846442045
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9],4.7705874854
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[H:8]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.62334401414
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:1],3.9862557759900006
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[C:10]([H:11])[H:12].[O:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-5.978167289680001
